US08349851B2
To a solution of ethyl 4-chloro-7-iodoquinazoline-2-carboxylate (0.138 g, 0.38 mmol) in DMF (2 mL) at rt under argon were added potassium iodide (0.069 g, 0.42 mmol), DIEA (0.079 mL, 0.45 mmol), and 1H-pyrazol-3-amine (0.038 g, 0.46 mmol). The mixture was stirred at rt overnight then diluted with H2O (15 mL). The precipitate was collected by filtration, washed with H2O, and dried under high vacuum for several hours to afford ethyl 4-(1H-pyrazol-3-ylamino)-7-iodoquinazoline-2-carboxylate as a yellow solid (0.130 g, 84%). 1H NMR (300 MHz, DMSO-d6) δ1.34 (t, 3H), 4.38 (q, 2H), 7.14 (m, 1H), 7.72 (m, 1H), 7.94 (d, 1H), 8.28 (d, 1H), 8.48 (d, 1H), 10.92 (s, 1H), 12.58 (s, 1H); LC-MS (ESI) m/z 410 (M+H)+.

reactant | ethyl 4-chloro-7-iodoquinazoline-2-carboxylate | 0.38 mmol, 0.138 g | ClC1=NC(=NC2=CC(=CC=C12)I)C(=O)OCC | C11H8ClIN2O2
reactant | potassium iodide | 0.42 mmol, 0.069 g | [I-].[K+]
reactant | DIEA | 0.45 mmol, 0.079 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1H-pyrazol-3-amine | 0.46 mmol, 0.038 g | N1N=C(C=C1)N | C3H5N3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | H2O | 15 mL | O | H2O
product | ethyl 4-(1H-pyrazol-3-ylamino)-7-iodoquinazoline-2-carboxylate | 0.130 g, 84% | N1N=C(C=C1)NC1=NC(=NC2=CC(=CC=C12)I)C(=O)OCC | C14H12IN5O2
